US06384080B1
A mixture of 2-fluoro-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide (200 mg) and trans-4-formamidocyclohexylamine (170 mg) in pyridine (2 mL) was stirred for 4 hours at 50° C. The mixture was partitioned between ethyl acetate and water. The separated organic layer was washed with 1N HCl and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by a silica gel column chromatography eluting with 5% methanol in chloroform. The obtained product was recrystallized from acetone (2 mL) to give N-(3,4-dimethoxybenzyl)-2-[(trans-4-formamidocyclohexyl)amino]-5-nitrobenzamide as yellow crystals (164 mg).

reactant | 2-fluoro-N-(3,4-dimethoxybenzyl)-5-nitrobenzamide | 200 mg | FC1=C(C(=O)NCC2=CC(=C(C=C2)OC)OC)C=C(C=C1)[N+](=O)[O-] | C16H15FN2O5
reactant | trans-4-formamidocyclohexylamine | 170 mg | C(=O)N[C@@H]1CC[C@H](CC1)N | C7H14N2O
solvent | pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
product | N-(3,4-dimethoxybenzyl)-2-[(trans-4-formamidocyclohexyl)amino]-5-nitrobenzamide | 164 mg | COC=1C=C(CNC(C2=C(C=CC(=C2)[N+](=O)[O-])N[C@@H]2CC[C@H](CC2)NC=O)=O)C=CC1OC | C23H28N4O6
